US09061030B2
To a solution of 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carbonitrile (I-33, e.g., about 100 mg, 0.358 mmol) and potassium carbonate (e.g., about 198 mg, 1.43 mmol) in methanol (e.g., about 3.6 mL) is added hydroxylamine hydrochloride (e.g., about 75 mg, 1.1 mmol). The solution is heated to about 70° C. for about 1.25 h, at which point the solution is diluted with ethyl acetate (e.g., about 20 mL) and the solids are filtered off through a cotton plug. The solvent is removed in vacuo and the crude residue is diluted with water (e.g., about 50 mL) and a mixture of dichloromethane and 2-propanol, e.g., a 5:1 mixture of dichloromethane and 2-propanol (e.g., about 50 mL). The layers are separated and the organic layer is washed with water (e.g., about 50 mL), dried, e.g., over sodium sulfate or magnesium sulfate, and the solvent is removed in vacuo. To the resulting crude 1-(2-fluorobenzyl)-N′-hydroxy-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carboximidamide is added trimethyl orthorfomate (e.g., about 4.5 mL, 41 mmol) and a catalytic amount of p-toluensulfonic acid monohydrate (e.g., about 3.4 mg, 0.018 mmol). The solution is heated to about 100° C. for about 1.5 h, and the excess orthoformate is removed in vacuo to give the crude product, I-34. Purification by silica gel chromatography (e.g., 20-80% ethyl acetate in hexanes) yields 3-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazol-5-yl)-1,2,4-oxadiazole, I-34, as a solid.

reactant | 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carbonitrile | 0.358 mmol, about 100 mg | FC1=C(CN2N=C(N=C2C#N)C2=NC=CC=C2)C=CC=C1 | C15H10FN5
reactant | potassium carbonate | 1.43 mmol, about 198 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 1.1 mmol, about 75 mg | Cl.NO
reactant | p-toluensulfonic acid monohydrate | 0.018 mmol, about 3.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | about 3.6 mL | CO | CH4O
solvent | ethyl acetate | about 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazol-5-yl)-1,2,4-oxadiazole | FC1=C(CN2N=C(N=C2C2=NOC=N2)C2=NC=CC=C2)C=CC=C1 | C16H11FN6O
